US04608374
11-{1-[2-(3,4,5-Trimethoxyphenyl)ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
A mixture of 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (5.8 g, 0.022 mole), K2CO3 (11.0 g) and 2-(3,4,5-trimethoxyphenyl)ethyl methanesulfonate (7.53 g, 0.026 mole) in 120 ml dimethylformamide was heated at 70° C. for 4.5 hours.

reactant | 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.022 mole, 5.8 g | N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C17H20N2O
reactant | K2CO3 | 11.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(3,4,5-trimethoxyphenyl)ethyl methanesulfonate | 0.026 mole, 7.53 g | CS(=O)(=O)OCCC1=CC(=C(C(=C1)OC)OC)OC | C12H18O6S
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 11-{1-[2-(3,4,5-Trimethoxyphenyl)ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | COC=1C=C(C=C(C1OC)OC)CCN1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C28H34N2O4
